US08791132B2
To a solution of 5,8-dichloro-2,3,4,9-tetrahydro-2-methyl-1H-pyrido[3,4-b]indole (200 mg, 0.78 mmol) in DMF (2 mL), sodium hydride (94 mg, 2.36 mmol) was added. After stirring at 60° C. for 30 min., 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (572 mg, 1.96 mmol) was added to the reaction mixture and stirred at the same temperature for 40 min. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to get the residue that was purified by reverse phase HPLC to obtain the 5,8-dichloro-2,3,4,9-tetrahydro-2-methyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole.

reactant | 5,8-dichloro-2,3,4,9-tetrahydro-2-methyl-1H-pyrido[3,4-b]indole | 0.78 mmol, 200 mg | ClC1=C2C3=C(NC2=C(C=C1)Cl)CN(CC3)C | C12H12Cl2N2
reactant | sodium hydride | 2.36 mmol, 94 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 1.96 mmol, 572 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5,8-dichloro-2,3,4,9-tetrahydro-2-methyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole | ClC1=C2C3=C(N(C2=C(C=C1)Cl)CCC=1C=NC(=CC1)C)CN(CC3)C | C20H21Cl2N3
